US04486354
2,3,5-Trichlorobenzoyl Chloride
A mixture of 2,3,5-trichlorobenzoic acid (90 g, 0.4M) and dimethylformamide (1 ml) in thionyl chloride (200 ml) was heated to reflux for 2 hours. The cooled solution was evaporated down in vacuo and the residue distilled under nitrogen. Yield 89.2 g (90%), b.p. 158°-160° C. at the pressure of 30 mm of mercury.

reactant | 2,3,5-trichlorobenzoic acid | 0.4M, 90 g | ClC1=C(C(=O)O)C=C(C=C1Cl)Cl | C7H3Cl3O2
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 200 ml | S(=O)(Cl)Cl | Cl2OS
product | 2,3,5-Trichlorobenzoyl Chloride | ClC1=C(C(=O)Cl)C=C(C=C1Cl)Cl | C7H2Cl4O
